US07012089B2
4-Methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine
To a solution of 4-methyl-1,2,3,4,5,6-hexahydro-benzo[e][1,4]diazocine (1.2 g, 6.8 mmole) in hydrochloric acid (2 N, 30 mL) cooled to 0° C. was added sodium nitrite (0.9 g, 13 mmole) in water (5 mL). The mixture was stirred for 1 hour at 0° C. and then neutralized with solid sodium bicarbonate and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with saturated aqueous sodium chloride (200 mL), dried and concentrated to a light brown oil. This oil was redissolved in THF (50 mL) and added to a suspension of lithium aluminum hydride (1.0 g, 25 mmole) in THF (50 mL) and the mixture refluxed for 3 hours under nitrogen. The excess hydride was destroyed at 0° C. by the cautious addition of water. The mixture was diluted with THF (200 mL) and filtered. Evaporation of the filtrate in vacuo provided 1.4 g of the title compound as a light yellow oil.

reactant | 4-methyl-1,2,3,4,5,6-hexahydro-benzo[e][1,4]diazocine | 6.8 mmole, 1.2 g | CN1CCNC2=C(CC1)C=CC=C2 | C11H16N2
reactant | sodium nitrite | 13 mmole, 0.9 g | N(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | lithium aluminum hydride | 25 mmole, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | hydrochloric acid | 2 N, 30 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Methyl-3,4,5,6-tetrahydro-2H-benzo[e][1,4]diazocin-1-ylamine | 1.4 g | CN1CCN(C2=C(CC1)C=CC=C2)N | C11H17N3
